US05126345
(E) 7-(Phenylmethoxy)-1H-1,2,3-triazolo[4,5-d]pyrimidin-5-amine
Sodium metal (3.7 g, 0.162 mol) was added in pieces to benzyl alcohol (117 ml, 1.13 mol) under nitrogen over 20 minutes. The reaction was then heated to 80° for 90 minutes. All of the sodium metal dissolved, and the reaction was left at room temperature for 16 hours. 7-Chloro-1H-1,2,3triazolo[4,5-d]pyrimidin-5-amine (9.23 g. 0.0541 mol) was then added, and the reaction was heated to 60° for 5 hours. The reaction was cooled and left at 5° for 16 hours. Water (500 ml) was added to dissolve the precipitate and then the mixture was extracted with ether (3×200 ml). The pH of the water layer was lowered to 7.0 with concentrated HCl and then to 5.5 with 1N HCl. The precipitate was filtered and dried at room temperature over P2O5 in vacuo to give 8.05 g of desired product.

reactant | Sodium | 0.162 mol, 3.7 g | [Na] | Na
reactant | benzyl alcohol | 1.13 mol, 117 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 7-Chloro-1H-1,2,3triazolo[4,5-d]pyrimidin-5-amine | 0.0541 mol, 9.23 g | ClC=1C2=C(N=C(N1)N)N=NN2 | C4H3ClN6
solvent | Water | 500 ml | O | H2O
product | 7-(Phenylmethoxy)-1H-1,2,3-triazolo[4,5-d]pyrimidin-5-amine | 8.05 g | C1(=CC=CC=C1)COC=1C2=C(N=C(N1)N)N=NN2 | C11H10N6O
